US08754103B2
To a round bottom flask was added N-(4-(6-(2-(2-(4-chlorophenyl)acetyl)hydrazinyl)pyridazin-3-yl)phenyl)methanesulfonamide (0.928 mmole), triphenylphosphine (3.25 mmole), azidotrimethylsilane (3.25 mmole), diethyl azodicarboxylate (4.18 mmole), and THF (13 mL). The resulting mixture was stirred at room temperature for 22 hours. The reaction mixture was diluted with dichloromethane and washed with saturated NaHCO3 and brine. The organic extract was dried over Na2SO4 and evaporated in vacuo. The crude product was washed with dichloromethane and methanol. The yellow solid was further purified by recrystallization with DMF and water to yield N-(4-(3-(4-chlorobenzyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)phenyl)methanesulfonamide.

reactant | N-(4-(6-(2-(2-(4-chlorophenyl)acetyl)hydrazinyl)pyridazin-3-yl)phenyl)methanesulfonamide | 0.928 mmole | ClC1=CC=C(C=C1)CC(=O)NNC1=CC=C(N=N1)C1=CC=C(C=C1)NS(=O)(=O)C | C19H18ClN5O3S
reactant | triphenylphosphine | 3.25 mmole | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | azidotrimethylsilane | 3.25 mmole | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | diethyl azodicarboxylate | 4.18 mmole | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | THF | 13 mL | C1CCOC1 | C4H8O
product | N-(4-(3-(4-chlorobenzyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)phenyl)methanesulfonamide | ClC1=CC=C(CC2=NN=C3N2N=C(C=C3)C3=CC=C(C=C3)NS(=O)(=O)C)C=C1 | C19H16ClN5O2S
